US04985472
488 Parts of m-tetramethylxylene diisocyanate and 0.3 part of hydroquinone monomethyl ether were charged in a three necked flask and thereto was added dropwise a mixture of 295 parts of 2-hydroxypropyl methacrylate and 0.3 part of n-butyl tin dilaurate over a period of 3 hours at 60° C. with stirring. After completion of the addition, reaction was further allowed to proceed for 2 hours at 70° C., followed by cooling at 60° C. To the reaction mixture was added dropwise 426 parts of bis(diethoxyphenyl)sulfone over a period of 3 hours. After completion of the reaction, reaction was allowed to proceed for 5 hours at 70° C. to obtain urethane dimethacrylate (UDM2).

reactant | m-tetramethylxylene diisocyanate | CC(C)(C1=CC(=CC=C1)C(C)(C)N=C=O)N=C=O | C14H16N2O2
reactant | hydroquinone monomethyl ether | COC1=CC=C(O)C=C1 | C7H8O2
reactant | 2-hydroxypropyl methacrylate | C(C(=C)C)(=O)OCC(C)O | C7H12O3
reactant | n-butyl tin dilaurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]
reactant | bis(diethoxyphenyl)sulfone | C(C)OC=1C(=C(C=CC1)S(=O)(=O)C1=C(C(=CC=C1)OCC)OCC)OCC | C20H26O6S
product | urethane dimethacrylate | C(C(=C)C)(=O)O.C(C(=C)C)(=O)O.NC(=O)OCC | InChI=1S/2C4H6O2.C3H7NO2/c2*1-3(2)4(5)6;1-2-6-3(4)5/h2*1H2,2H3,(H,5,6);2H2,1H3,(H2,4,5)
